US07521450B2
5-Methyl-4-(2-methyl-1H-indol-5-yloxy)-6-(3-piperidin-1-ylpropoxy)-pyrrolo[2,1-f][1,2,4]triazine
To a mixture of 5-methyl-4-phenoxypyrrolo[2,1-f][1,2,4]triazin-6-ol (1.47 g, 6.1 mmol, for preparation see WO 0071129), 1-piperidinepropanol (1.74 g, 12.2 mmol) and triphenylphosphine (3.2 g, 12.2 mmol) in tetrahydrofuran (20 mL) at 0° C. under argon, was added DEAD (1.9 mL, 12.2 mmol). The resulting mixture was stirred at 0° C. for 30 min, and then at RT for 1 hr. The volatiles were removed in vacuo. The residue was purified by silica gel flash column chromatography using 5% (2M NH3 in MeOH)/20% ethyl acetate/CH2Cl2 to afford the desired product as beige solid (1.6 g, 72% yield). MS: (M+H)+=367.

reactant | 5-methyl-4-phenoxypyrrolo[2,1-f][1,2,4]triazin-6-ol | 6.1 mmol, 1.47 g | CC=1C(=CN2N=CN=C(C21)OC2=CC=CC=C2)O | C13H11N3O2
reactant | 1-piperidinepropanol | 12.2 mmol, 1.74 g | N1(CCCCC1)CCCO | C8H17NO
reactant | triphenylphosphine | 12.2 mmol, 3.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 12.2 mmol, 1.9 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 5-Methyl-4-(2-methyl-1H-indol-5-yloxy)-6-(3-piperidin-1-ylpropoxy)-pyrrolo[2,1-f][1,2,4]triazine | 1.6 g, 72% yield | CC=1C(=CN2N=CN=C(C21)OC=2C=C1C=C(NC1=CC2)C)OCCCN2CCCCC2 | C24H29N5O2
